US05070196
In a flask equipped with a dropping funnel and a cooler was placed a mixture of 8.94 g of piperidine, 7.7 ml of benzene and 1.5 ml of chloroform. The mixture was refluxed by heating, and to the mixture was dropwise added 9.50 g of 7-bromoheptanenitrile. After the addition was complete, the mixture was further refluxed by heating for 4 hours and then cooled under ambient condition. To the mixture was added ether, and the resulting mixture was stirred for a while. The reaction mixture was filtered to remove insolubles. The insolubles were washed with ether. The filtrate and washings were combined and concentrated under reduced pressure. The residue was distilled under reduced pressure to give 7-piperidinoheptanenitrile as a colorless oil, yield: 8.92 g (theoretical yield).

reactant | piperidine | 8.94 g | N1CCCCC1 | C5H11N
reactant | benzene | 7.7 ml | C1=CC=CC=C1 | C6H6
reactant | chloroform | 1.5 ml | C(Cl)(Cl)Cl | CHCl3
reactant | 7-bromoheptanenitrile | 9.50 g | BrCCCCCCC#N | C7H12BrN
solvent | ether | CCOCC | C4H10O
product | 7-piperidinoheptanenitrile | N1(CCCCC1)CCCCCCC#N | C12H22N2
